US08227481B2
4-(2-Oxo-ethyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester
4-Allyl-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (2.97 g, 10 mmol) was dissolved in iPrOH (50.0 mL) and H2O (10.0 mL). To this was added a aqueous solution of NaIO4 (4.68 g, 21.8 mmol) in water (40.0 mL), followed by addition of OsO4 (8.4 mg, crystals, in one portion) at rt. The solution was stirred at rt. After 30 min, milky cloudy formed. Stirring was continued overnight. TLC and LC/MS did not detect the SM, but it is still very milky. The reaction mixture was poured into ice water (20 mL) and EtOAc (30 mL). The two layers were separated and the aqueous layer was extracted with EtOAc (3×15 mL). The combined extracts were washed with brine, and concentrated to dryness to get a liquid. The liquid was subject a reduced distillation to remove isopropanol. The remaining liquid was purified on a 50-g silica gel column, eluted with MeOH in DCM (0-5%). Note: the product is not UV active. Anisaldehyde visualization was used. The product fractions were collected and concentrated to yield 1.03 g (34% yield) of the title compound as a liquid.

reactant | 4-Allyl-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 10 mmol, 2.97 g | C(C)OC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CC=C | C16H27NO4
reactant | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | iPrOH | 50.0 mL | CC(C)O | C3H8O
solvent | H2O | 10.0 mL | O | H2O
solvent | water | 40.0 mL | O | H2O
catalyst | OsO4 | 8.4 mg | O=[Os](=O)(=O)=O
product | 4-(2-Oxo-ethyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 1.03 g, 34% yield | C(C)OC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CC=O | C15H25NO5
